US05474998
Step A: 1-[1-(bromomethyl)ethenyl]-4-chlorobenzene
A mixture of 31.0 g (0.20 mol) of 4-chloro-α-methylstyrene, 38.0 g (0.21 mol) of N-bromosuccinimide, 3.9 g (0.02 mol) of p-toluenesulfonic acid monohydrate and 610 mL of THF was heated at reflux for 3 h and then concentrated at room temperature. The residue was partitioned between 400 mL of hexanes and 200 mL of H2O, the organic phase was washed twice with 100 mL H2O and dried (MgSO4). Removal of solvent gave 47.8 g of a yellow oil that was used without further purification. 1H NMR (CDCl3, 200 MHz) δ4.33 (s, 2H), 5.50 (d, 2H), 7.2-7.5 (m, 5H).

reactant | 4-chloro-α-methylstyrene | 0.20 mol, 31.0 g | ClC1=CC=C(C(=C)C)C=C1 | C9H9Cl
reactant | N-bromosuccinimide | 0.21 mol, 38.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
catalyst | p-toluenesulfonic acid monohydrate | 0.02 mol, 3.9 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | THF | 610 mL | C1CCOC1 | C4H8O
product | 1-[1-(bromomethyl)ethenyl]-4-chlorobenzene | 47.8 g | BrCC(=C)C1=CC=C(C=C1)Cl | C9H8BrCl
